US06284902B1
A solution of (S)-3-hydroxybutyrolactone (10 g) in 85% purity and hydrogen bromide/acetic acid (40 ml) in 30% purity was charged to a 250 ml flask equipped with a thermometer, reflux condensor and agitator, and stirred at 40˜60° C. for 5 hours. After the reaction was completed, the reaction solution was cooled at room temperature. With the addition of methylene chloride (200 ml), the mixture washed with 1M sodium acetate solution and then an organic layer was separated, dried over anhydrous magnesium sulfate, filtered off and concentrated. Toluene (100 ml) was added to (S)-3-acetoxy-4-bromobutyric acid, so concentrated, to remove the remaining acetic acid. The concentration under reduced pressure gave 18.74 g of (S)-3-acetoxy-4-bromobutyric acid (yield: 85%).

reactant | (S)-3-hydroxybutyrolactone | 10 g | O[C@H]1CC(=O)OC1 | C4H6O3
reactant | hydrogen bromide acetic acid | 40 ml | Br.C(C)(=O)O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | (S)-3-acetoxy-4-bromobutyric acid | 18.74 g, yield: 85% | C(C)(=O)O[C@@H](CC(=O)O)CBr | C6H9BrO4
